US04803270
A suspension of 2,4-dinitro-5-chlorophenoxyacetonitrile (5.0 g) and potassium fluoride (1.7 g) in dimethylsulfoxide (25 g) was stirred at 83° to 85° C. for 1 hour. The reaction mixture was poured into ice-water (300 ml) and extracted with ethyl acetate. The organic layer was washed with water, dried over magnesium sulfate and concentrated. The precipitated crystals were collected by filtration and washed with ether to give crystalline 2,4-dinitro-5-fluorophenoxyacetonitrile (4.18 g; yield, 89.3%). M.P., 118°-118.5° C. (recrystallized from methanol).

reactant | 2,4-dinitro-5-chlorophenoxyacetonitrile | 5.0 g | [N+](=O)([O-])C1=C(OCC#N)C=C(C(=C1)[N+](=O)[O-])Cl | C8H4ClN3O5
reactant | potassium fluoride | 1.7 g | [F-].[K+]
solvent | dimethylsulfoxide | 25 g | CS(=O)C | C2H6OS
product | 2,4-dinitro-5-fluorophenoxyacetonitrile | 4.18 g, 89.3% | [N+](=O)([O-])C1=C(OCC#N)C=C(C(=C1)[N+](=O)[O-])F | C8H4FN3O5
